2148-01-21 09:19:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated for upper endoscopy, which was negative for source of
   bleeding. Neurosurgery tapped VP shunt (2 WBC, 1 RBC, glucose 69).
   Blood pressure has been stable.
   Hct up to 33.8 after transfusion of 2 units of PRBCs.
   On vent, remains on assist control with good ABG's on FIO2 0.4.
   24 Hour Events:
 MULTI LUMEN - START [**2148-1-20**] 10:00 PM
 ENDOSCOPY - At [**2148-1-21**] 12:00 AM
   History obtained from Medical records
   Allergies:
   Penicillins
   Hives; Rash;
   Sulfa (Sulfonamides)
   Rash;
   Acetaminophen
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2148-1-21**] 02:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-1-21**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-21**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 96 (83 - 107) bpm
   BP: 166/65(92) {94/38(53) - 172/76(97)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.6 kg (admission): 42.6 kg
   Height: 52 Inch
           Total In:
                                                                    289 mL
                                                                  1,393 mL
   PO:
           400 mL
   TF:
   IVF:
                                                                    151 mL
                                                                    530 mL
   Blood products:
                                                                    138 mL
                                                                    463 mL
   Total out:
                                                                     35 mL
                                                                    142 mL
   Urine:
                                                                     35 mL
                                                                    142 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    254 mL
                                                                  1,251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/45/221/24/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 553
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Few on right lateral and posterior
   chest, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Ventral hernia, easily reduced
   Extremities: Right: AKA, Left: erythema left lower leg; no edema, No(t)
   Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   207 K/uL
   94 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.0 mEq/L
   19 mg/dL
   109 mEq/L
   141 mEq/L
   33.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2148-1-21**]  05:46 AM
                             [**2148-1-21**]  06:44 AM
   WBC
   14.0
   Hct
   33.8
   Plt
   207
   Cr
   0.6
   TropT
   0.05
   TCO2
   27
   Glucose
   94
   Other labs: PT / PTT / INR:14.0/26.1/1.2, CK / CKMB /
   Troponin-T:33//0.05, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:6.5 %, Eos:1.0 %, Ca++:8.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Imaging: Head CT: no acute changes.
   CXR: No focal infiltrates. no effusions. Mildly elevated left
   hemi-diaphragm.
   Assessment and Plan
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ANEMIA
   Patient is hemodynamically stable. Hct in low 30's after transfusion.
   Patient being prepped for colonoscopy, which is to be done later today.
   Suspect right colon bleed given melena, no source in upper system by
   endoscopy, and relatively normal BUN/Creat ratio consistent with
   patient not being significantly volume depleted.  If patient bleeds
   aggressively today, would push for angiography.
   Patient intubated for procedures. Oxygenation good. Minute ventilation
   acceptable. If bleeding does not recur, would awaken patient and
   extubate.
   Patient unresponsive on exam but propofol in place. She had received
   several narcotics and benzodiazepines prior to transfer; initial
   somnolence likely related to that. Propofol started because she was
   pulling out tubes. Sounds as if she has had delirium in recent weeks.
   No evidence of CNS infection. Stool being checked for CDiff. Would stop
   all antibiotics except flagyl and monitor cultures.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2148-1-20**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2148-01-22 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-21**] Events:
   - HCTs stable
   - extubated
   - MS back to baseline per family
   - colonoscopy either Monday PM or Tuesday
   Allergies:
   Penicillins
   Hives; Rash;
   Sulfa (Sulfonamides)
   Rash;
   Acetaminophen
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2148-1-22**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-1-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2148-1-21**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-22**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 95 (65 - 96) bpm
   BP: 123/50(67) {83/43(53) - 166/92(97)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.6 kg (admission): 42.6 kg
   Height: 52 Inch
             Total In:
                                                                  4,823 mL
                                                                  1,264 mL
   PO:
                                                                  2,490 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,811 mL
                                                                  1,024 mL
   Blood products:
                                                                    463 mL
   Total out:
                                                                  2,079 mL
                                                                    580 mL
   Urine:
                                                                    504 mL
                                                                    180 mL
   NG:
   Stool:
   400 mL
   Drains:
   Balance:
                                                                  2,744 mL
                                                                    684 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: ///21/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   200 K/uL
   9.1 g/dL
   73 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.6 mEq/L
   10 mg/dL
   111 mEq/L
   140 mEq/L
   28.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2148-1-21**]  05:46 AM
                             [**2148-1-21**]  06:44 AM
                             [**2148-1-21**]  09:54 AM
                             [**2148-1-21**]  04:33 PM
                             [**2148-1-21**]  10:17 PM
                             [**2148-1-22**]  04:24 AM
   WBC
   14.0
   10.3
   Hct
   33.8
   32.6
   31.7
   30.6
   28.4
   Plt
   207
   200
   Cr
   0.6
   0.6
   0.5
   TropT
   0.05
   TCO2
   27
   Glucose
   94
   81
   73
   Other labs: PT / PTT / INR:15.0/43.5/1.3, CK / CKMB /
   Troponin-T:33//0.05, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:6.5 %, Eos:1.0 %, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   A 71 year old lady with recent stented MI, multiple medical problems
   presents with abdominal pain, recent nausea/vomiting, altered mental
   status and leukocytosis from outside hospital ED. She is minimally
   responsive, has poor venous access and comes with little outside
   information.
   .
   # Vent: Intubated for airway protection. Has good resp status prior to
   intubation.
   - use propofol for sedation given quicker metabolism. Her BPs have been
   holding stable
   - keep on PS overnight
   - SBT and RSBI in AM and extubate ASAP
   - routine vent care
   .
   # GIB: She does have hx of UGIB from "ulcer" at OSH. Presence of
   melantic stools also suggests UGI source, although could not rule out a
   high colonic bleed. Unfortunately, she is recently s/p LAD BMS and
   needs to be on ASA and plavix. GI will urgently scope tonight given
   that she cannot come off anti-plt therapy
   - [**Last Name (LF) 2643**], [**First Name3 (LF) 178**] place large bore PIV as well in case need for urgent volume
   - transfuse 2U PRBC now
   - apprec GI
   - [**Hospital1 **] IV PPI
   - Q4hr HCTs and transfuse to keep HCT up
   - send H. pylori
   - hold all antihypertensives
   - golytely overight and possible C-scope in AM
   - if continues to bleed, would to bleeding scan
   .
   # Abdominal Pain: CT abdomen pelvis reviewed and rules out obstruction,
   current volvulus, abscess, hemorrhage or obvious colitits. Viral
   gastroenteritis can be invoked, as can C. diff given recent
   institutionalization. This may be related to GIB
   - Serial abdominal exams
   - plan as above
   .
   # Leukocytosis: Concern for abdominal process, sepsis and central
   infection given her VP shunt. C. Diff also possible. U/A unrevealing.
   Reassured the lactate is normal, vital signs stable. Despite high WBC,
   otherwise not likely sepsis. Given high WBC count, C. diff is more
   likely than other infectious processes.
   - per neurosurgery no need for VP shunt tapping
   - Consider repeat LP attempt, although failued X 2 already and may need
   IR guided
   - Blood & Urine cultures
   - C. diff stools
   - Flagyl 500mg IV Q8 started on floor given high likelihood of C.diff.
   As now in ICU, would switch to PO vanc.
   - if worsens clincially, broaden to Vanc/Zosyn
   .
   # Altered Mental Status: Likely due to infection and opioids/sedatives
   given in our and OSH EDs. Monitor with neuro exams and reassess if does
   not clear with appropriate drug metabolism. Of note, she has been
   getting progressively more unresponsive throughout the day, answering
   yes/no in AM, but now unresponsive to painful stimuli
   - consider LP if mental status does not clear; however, I have low
   clinical suspicion for meningitis
   - consider flumazenil and narcan to reverse benzos and opiates if
   mental status does not improve
   .
   # CAD s/p MI BMS [**1-9**]:
   - Continue ASA/Plavix despite bleeding risk
   - Hold Imdur, Lisinopril, HCTZ given GI Bleed
   - Continue Carvedilol for ischemic protection despite GI bleed risk.
   - Continue Simvastatin
   .
   # PVD: Has hx of recent pseudoaneurysm
   - Continue ASA/plavix, monitor distal pulses.
   .
   # COPD: Continue Spiriva, Nebs
   .
   # FEN: NPO while patient altered, maintenance IVF. Replete lytes PRN
   # PPX: Protonix IV, ASA/Plavix, Pneumoboot
   # Code: Full, Confirmed
   # Access: RIJ
   # Dispo: MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-1-20**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: